US05089634
Preparation of 7-(phenylthiocarbamoylamino)-4-chloro-3-(2-isothiureidoethoxy)isocoumarin
7-(Phenylthiocarbamoylamino)-4-chloro-3-(2-bromoethoxy)isocoumarin was prepared from the reaction of phenyl isothiocyanate with 7-amino-4-chloro-3-(2-bromoethoxy)isocoumarin, yield 59%, m.p. 157°-158° C.; mass spectrum m/e 361 (m+ -PhNH+1). Anal. Calc.: C, 48.36; H, 3.39. Found: C, 48.26; H, 3.40. The bromoethoxy compound was then reacted with thiourea by the same procedure to give the final product, yield 32%, mass spectrum (FAB+) m/e 449 (M+ -Br).

reactant | phenyl isothiocyanate | C1(=CC=CC=C1)N=C=S | C7H5NS
reactant | 7-amino-4-chloro-3-(2-bromoethoxy)isocoumarin | NC1=CC=C2C(=C(OC(=O)C2=C1)OCCBr)Cl | C11H9BrClNO3
reactant | thiourea | NC(=S)N | CH4N2S
product | 7-(Phenylthiocarbamoylamino)-4-chloro-3-(2-bromoethoxy)isocoumarin | yield 59% | C1(=CC=CC=C1)NC(=S)NC1=CC=C2C(=C(OC(=O)C2=C1)OCCBr)Cl | C18H14BrClN2O3S
